US09034866B2
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed bromo(ethynyl)magnesium (0.5M in THF, 77 mL, 1.20 equiv). This was followed by the addition of a solution of 1-(1-methyl-1H-imidazol-2-yl)ethan-1-one (4.0 g, 32.22 mmol, 1.00 equiv) in tetrahydrofuran (15 mL) dropwise with stirring at 0° C. in 20 min. The resulting solution was stirred for 20 min at 0° C. The resulting solution was allowed to react with stirring for an additional 5 h at room temperature. The reaction was then quenched by the addition of 50 mL of saturated aqueous NH4Cl. The resulting solution was extracted with 3×100 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/hexane (1/3) to give 2.8 g (58%) of 2-(1-methyl-1H-imidazol-2-yl)but-3-yn-2-ol as a off-white solid. 1H-NMR (300 MHz, CDCl3, ppm) δ 7.065 (d, 1H), 6.842 (d, 1H), 3.935 (d, 3H), 3.092 (s, 3H), 1.950 (s, 3H).

reactant | bromo(ethynyl)magnesium | 0.5M, 77 mL, 1.20 equiv | Br[Mg]C#C
reactant | 1-(1-methyl-1H-imidazol-2-yl)ethan-1-one | 32.22 mmol, 4.0 g, 1.00 equiv | CN1C(=NC=C1)C(C)=O | C6H8N2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(1-methyl-1H-imidazol-2-yl)but-3-yn-2-ol | 2.8 g, 58% | CN1C(=NC=C1)C(C)(C#C)O | C8H10N2O
